US09382244B2
4.8 ml of a 2M solution of lithium diisopropylamine in THF/heptane are added dropwise over the course of 60 min. to a solution of 1 g of 1-(benzenesulfonyl)-7-azaindole in 20 ml of THF at −70° C. under an N2 atmosphere. The mixture is allowed to warm to 20° over the course of 50 minutes. The suspension is cooled to −70°, and a solution of 1.1, g of iodomethane in 20 ml of THF is added dropwise over the course of 20 minutes. The mixture is stirred at −70° for one hour and subsequently at room temperature for 14 h. The mixture is diluted with water and extracted with dichloromethane. The extract is dried over sodium sulfate, filtered, the solvent is removed and crystallised from cyclohexane, giving 0.68 g of 2-methyl-1-(benzenesulfonyl)-7-azaindole, M˜272.32 g/mol, M+H found 273, NMR corresponds.

reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | 1-(benzenesulfonyl)-7-azaindole | 1 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=CN=C12 | C13H10N2O2S
reactant | iodomethane | IC | CH3I
solvent | THF heptane | C1CCOC1.CCCCCCC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-1-(benzenesulfonyl)-7-azaindole | 0.68 g | CC=1N(C2=NC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C14H12N2O2S
